US09376392B2
To the solution of (S)-2-(2-acetoxy-5-bromo-7-methylquinolin-6-yl)-2-tert-butoxyethyl pivalate (130 mg) in ethanol (7.5 mL) was added aqueous methylamine solution (0.5 mL, 50%). The mixture was heated at 78° C. for 80 min. Concentration and purification gave (S)-2-(5-bromo-7-methyl-2-oxo-1,2-dihydroquinolin-6-yl)-2-tert-butoxyethyl pivalate. LCMS-ESI+ (m/z): 438.2, 440.2 (M+H)+.

reactant | (S)-2-(2-acetoxy-5-bromo-7-methylquinolin-6-yl)-2-tert-butoxyethyl pivalate | 130 mg | C(C(C)(C)C)(=O)OC[C@@H](OC(C)(C)C)C=1C(=C2C=CC(=NC2=CC1C)OC(C)=O)Br | C23H30BrNO5
reactant | methylamine | 0.5 mL | CN | CH5N
solvent | ethanol | 7.5 mL | C(C)O | C2H6O
product | (S)-2-(5-bromo-7-methyl-2-oxo-1,2-dihydroquinolin-6-yl)-2-tert-butoxyethyl pivalate | C(C(C)(C)C)(=O)OC[C@@H](OC(C)(C)C)C=1C(=C2C=CC(NC2=CC1C)=O)Br | C21H28BrNO4
